US20010000345A1
A mixture of 3.46 g of 5-nitrobenzothiazole and 15.7 g of stannous chloride dihydrate in 55 mL of 2-propanol is heated to reflux for 3 hours. The cooled reaction mixture is poured into 150 mL of ice/water and neutralized to pH 7 using solid sodium hydroxide. The mixture is extracted with ethyl acetate (3×50 mL). The combined organic layers are dried over sodium sulfate, filtered through a short pad of silica gel, and rotary evaporated to provide 2.45 g of 5-aminobenzothiazole as a yellow-brown solid.

reactant | 5-nitrobenzothiazole | 3.46 g | [N+](=O)([O-])C=1C=CC2=C(N=CS2)C1 | C7H4N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 2-propanol | 55 mL | CC(C)O | C3H8O
product | 5-aminobenzothiazole | 2.45 g | NC=1C=CC2=C(N=CS2)C1 | C7H6N2S
